### PR TITLE
[Merged by Bors] - feat(GroupTheory/SpecificGroups/Cyclic): comparison of subgroups of a cyclic group

### PR DESCRIPTION
**Pull request by xroblot**
Add the following results about subgroup comparison in cyclic groups.

- `IsCyclic.subgroup_le_iff_index_dvd`: in a cyclic group, `H ≤ K ↔ K.index ∣ H.index`
- `IsCyclic.subgroup_le_iff_card_dvd`: if `K` is finite, `H ≤ K ↔ Nat.card H ∣ Nat.card K`
- `IsCyclic.subgroup_eq_iff_card_eq`: if `H` and `K` are finite, `H = K ↔ Nat.card H = Nat.card K`
- `IsCyclic.infinite_of_ne_bot`: a nontrivial subgroup of an infinite cyclic group is infinite

Also add:
- `Subgroup.exists_zpowers_eq_of_zpowers_eq_top`: if `g` generates the group, every subgroup is of the form `zpowers (g ^ i)`
- `Subgroup.index_eq_card_div`: for `H` finite, `H.index = Nat.card G / Nat.card H`

:robot: This PR was extracted from the [SKW project](https://github.com/xroblot/SKW) by Claude.

---
- [x] depends on: #42754

### CODE REVIEW

File: Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean [hunk 1]
```diff
@@ -82,4 +82,8 @@ theorem zmultiples_inf (a b : ℤ) : zmultiples a ⊓ zmultiples b = zmultiples
   ext
   simp [mem_zmultiples_iff, coe_lcm_dvd_iff]
 
+theorem zmultiples_le_zmultiples_iff {a b : ℤ} :
+    zmultiples a ≤ zmultiples b ↔ b ∣ a := by
+  rw [zmultiples_le, mem_zmultiples_iff]
```
Comment (tb65536) [inline Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean:87]: Does this generalize?

File: Mathlib/Data/Nat/GCD/Basic.lean [hunk 2]
```diff
@@ -262,6 +262,12 @@ lemma div_mul_div (hkm : m ∣ k) (hkn : n ∣ m) : (k / m) * (m / n) = k / n :=
 lemma div_dvd_div_left (hkm : m ∣ k) (hkn : n ∣ m) : k / m ∣ k / n :=
   ⟨_, (div_mul_div hkm hkn).symm⟩
 
+/-- `k / m ∣ k / n` iff `n ∣ m`, when both `m` and `n` divide `k`. -/
+lemma div_dvd_div_iff (hk : 0 < k) (hm : 0 < m) (hmk : m ∣ k) (hnk : n ∣ k) :
+    k / m ∣ k / n ↔ n ∣ m := by
```
Comment (tb65536) [inline Mathlib/Data/Nat/GCD/Basic.lean:267]: It seems like this lemma is one of a pair with equal denominators rather than equal numerators.

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 3]
```diff
@@ -833,3 +892,28 @@ instance (G : Type*) [Group G] [IsCyclic G] : IsCyclic (WithZero G)ˣ := by
   apply Equiv.injective
 
 end WithZero
+
+section SubgroupCard
+
+/-- In a finite cyclic group, `H ≤ K` iff `Nat.card H ∣ Nat.card K`. -/
+@[to_additive /-- In a finite additive cyclic group, `H ≤ K` iff `Nat.card H ∣ Nat.card K`. -/]
+theorem IsCyclic.subgroup_le_subgroup_iff [Group G] [Finite G] [IsCyclic G]
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean:900]: This shouldn't require finiteness, right?

File: Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean]: I am not sure what you have in mind. Maybe the answer is `AddSubgroup.zmultiples_le_zmultiples_iff` in `Cyclic.lean` (also in this PR), for which this is the  `Int` case? Let me know if you meant something else.

File: Mathlib/Data/Nat/GCD/Basic.lean (hunk 2 above)
Comment (xroblot) [reply Mathlib/Data/Nat/GCD/Basic.lean]: I was not quite sure which one you meant. I have added the other companion lemma and named them `div_dvd_div_iff_left` (for equal numerators) and `div_dvd_div_iff_right` (for equal denominators), following `mul_dvd_mul_iff_left/_right`. Note that there is `Nat.div_dvd_div` in core for the equal denominators case while there is `div_dvd_div_left` in Mathlib's is the equal numerators case, so the names are not very consistent. Let me know if you had a different scheme in mind.

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean (hunk 3 above)
Comment (xroblot) [reply Mathlib/GroupTheory/SpecificGroups/Cyclic.lean]: Indeed, only the finiteness of `K` is needed. I changed (but I had to add a few more APIs for that).

File: Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean (hunk 1 above)
Comment (tb65536) [reply Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean]: Ah, sorry, I was a bit confused.

Comment (tb65536) [inline Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean]: I think this can be moved to an earlier file.

File: Mathlib/Data/Nat/GCD/Basic.lean [hunk 4]
```diff
@@ -262,6 +262,20 @@ lemma div_mul_div (hkm : m ∣ k) (hkn : n ∣ m) : (k / m) * (m / n) = k / n :=
...
+  rw [Nat.div_dvd_iff_dvd_mul hmk (Nat.pos_of_dvd_of_pos hmk hk), ← Nat.mul_div_assoc _ hnk,
+    Nat.dvd_div_iff_mul_dvd (hnk.mul_left m), Nat.mul_dvd_mul_iff_right hk]
+
+/-- `m / k ∣ n / k` iff `m ∣ n`, when `k` divides both `m` and `n`. -/
+lemma div_dvd_div_iff_right (hkm : k ∣ m) (hkn : k ∣ n) : m / k ∣ n / k ↔ m ∣ n := by
+  rcases k.eq_zero_or_pos with rfl | hk
+  · simp_all
+  obtain ⟨m, rfl⟩ := hkm
+  obtain ⟨n, rfl⟩ := hkn
+  rw [Nat.mul_div_cancel_left _ hk, Nat.mul_div_cancel_left _ hk, Nat.mul_dvd_mul_iff_left hk]
```
Comment (tb65536) [inline Mathlib/Data/Nat/GCD/Basic.lean]:
```suggestion
  · rw [← Nat.mul_dvd_mul_iff_left hk, Nat.mul_div_cancel' hkm, Nat.mul_div_cancel' hkn]
```

File: Mathlib/Data/Nat/GCD/Basic.lean [hunk 5]
```diff
@@ -262,6 +262,20 @@ lemma div_mul_div (hkm : m ∣ k) (hkn : n ∣ m) : (k / m) * (m / n) = k / n :=
 lemma div_dvd_div_left (hkm : m ∣ k) (hkn : n ∣ m) : k / m ∣ k / n :=
   ⟨_, (div_mul_div hkm hkn).symm⟩
 
+/-- `k / m ∣ k / n` iff `n ∣ m`, when both `m` and `n` divide `k`. -/
+lemma div_dvd_div_iff_left (hk : 0 < k) (hmk : m ∣ k) (hnk : n ∣ k) :
+    k / m ∣ k / n ↔ n ∣ m := by
+  rw [Nat.div_dvd_iff_dvd_mul hmk (Nat.pos_of_dvd_of_pos hmk hk), ← Nat.mul_div_assoc _ hnk,
+    Nat.dvd_div_iff_mul_dvd (hnk.mul_left m), Nat.mul_dvd_mul_iff_right hk]
```
Comment (tb65536) [inline Mathlib/Data/Nat/GCD/Basic.lean]:
```suggestion
  grind [Nat.div_div_self, div_dvd_div_left, div_dvd_of_dvd]
```

File: Mathlib/GroupTheory/OrderOfElement.lean [hunk 6]
```diff
@@ -1046,6 +1046,15 @@ lemma orderOf_eq_zero_iff_eq_zero {G₀ : Type*} [GroupWithZero G₀] [Finite G
 section FiniteGroup
 variable [Group G] {x y : G}
 
+@[to_additive]
+theorem orderOf_pow_natAbs (x : G) (n : ℤ) : orderOf (x ^ n.natAbs) = orderOf (x ^ n) := by
+  obtain ⟨a, (rfl | rfl)⟩ := Int.eq_nat_or_neg n <;> simp
```
Comment (tb65536) [inline Mathlib/GroupTheory/OrderOfElement.lean]:
```suggestion
  cases n <;> simp
```

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 7]
```diff
@@ -396,6 +397,64 @@ theorem zpowersHom_ker_eq [Group G] (g : G) :
...
+/-- `zmultiples (i • g) ≤ zmultiples (j • g)` iff `j.gcd (addOrderOf g) ∣ i.gcd (addOrderOf g)`.
+This characterizes inclusion of cyclic subgroups of an additive group generated by integer
+multiples of a single element. -/
+theorem AddSubgroup.zmultiples_le_zmultiples_iff [AddGroup G] (g : G) (i j : ℤ) :
+    zmultiples (i • g) ≤ zmultiples (j • g) ↔
+      j.gcd (addOrderOf g) ∣ i.gcd (addOrderOf g) := by
+  rw [← zmultiplesHom_apply, ← AddMonoidHom.map_zmultiples, ← zmultiplesHom_apply,
+    ← AddMonoidHom.map_zmultiples, AddSubgroup.map_le_map_iff', zmultiplesHom_ker_eq,
+    Int.zmultiples_sup, Int.zmultiples_sup,
+    Int.zmultiples_le_zmultiples_iff, Int.natCast_dvd_natCast]
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean]:
```suggestion
  simp_rw [← zmultiplesHom_apply, ← AddMonoidHom.map_zmultiples,
    AddSubgroup.map_le_map_iff', zmultiplesHom_ker_eq, Int.zmultiples_sup,
    Int.zmultiples_le_zmultiples_iff, Int.natCast_dvd_natCast]
```

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 8]
```diff
@@ -396,6 +397,64 @@ theorem zpowersHom_ker_eq [Group G] (g : G) :
...
+
+@[to_additive existing]
+theorem Subgroup.zpowers_le_zpowers_iff [Group G] (g : G) (i j : ℤ) :
+    zpowers (g ^ i) ≤ zpowers (g ^ j) ↔ j.gcd (orderOf g) ∣ i.gcd (orderOf g) := by
+  rw [← SetLike.coe_subset_coe, ← Additive.ofMul.image_subset,
+    ofMul_image_zpowers_eq_zmultiples_ofMul, ofMul_image_zpowers_eq_zmultiples_ofMul,
+    SetLike.coe_subset_coe, ofMul_zpow, ofMul_zpow, AddSubgroup.zmultiples_le_zmultiples_iff,
+    addOrderOf_ofMul_eq_orderOf]
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean]:
```suggestion
    zpowers (g ^ i) ≤ zpowers (g ^ j) ↔ j.gcd (orderOf g) ∣ i.gcd (orderOf g) :=
  AddSubgroup.zmultiples_le_zmultiples_iff (Additive.ofMul g) i j
```

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 9]
```diff
@@ -396,6 +397,64 @@ theorem zpowersHom_ker_eq [Group G] (g : G) :
...
+/-- The subgroups generated by `g ^ i` and `g ^ j` are equal iff
+`i.gcd (orderOf g) = j.gcd (orderOf g)`. Compare `Subgroup.zpowers_eq_zpowers_iff`, which
+characterizes equality of `zpowers x` and `zpowers y` when `x` has infinite order. -/
+@[to_additive /-- The subgroups generated by `i • g` and `j • g` are equal iff
+`i.gcd (addOrderOf g) = j.gcd (addOrderOf g)`. Compare `AddSubgroup.zmultiples_eq_zmultiples_iff`,
+which characterizes equality of `zmultiples x` and `zmultiples y` when `x` has infinite order. -/]
+theorem Subgroup.zpowers_eq_zpowers_iff' [Group G] (g : G) (i j : ℤ) :
+    zpowers (g ^ i) = zpowers (g ^ j) ↔ i.gcd (orderOf g) = j.gcd (orderOf g) := by
+  rw [le_antisymm_iff, zpowers_le_zpowers_iff, zpowers_le_zpowers_iff,
+    dvd_dvd_iff_associated, associated_iff_eq, eq_comm]
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean]: Should there be a lemma `Nat.dvd_antisymm_iff`?

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 10]
```diff
@@ -396,6 +397,64 @@ theorem zpowersHom_ker_eq [Group G] (g : G) :
...
+    exact mem_zpowers_iff.2 ⟨i / (i.gcd j : ℤ),
+      by rw [← zpow_mul, Int.mul_ediv_cancel' (Int.gcd_dvd_left ..)]⟩
+  · rw [zpowers_le]
+    exact mem_zpowers_iff.2 ⟨j / (i.gcd j : ℤ),
+      by rw [← zpow_mul, Int.mul_ediv_cancel' (Int.gcd_dvd_right ..)]⟩
+  · rw [zpowers_le]
+    have h : (g ^ i) ^ Int.gcdA i j * (g ^ j) ^ Int.gcdB i j = g ^ (i.gcd j : ℤ) := by
+      rw [← zpow_mul, ← zpow_mul, ← zpow_add, ← Int.gcd_eq_gcd_ab]
+    rw [← h]
+    exact mul_mem_sup (mem_zpowers_iff.2 ⟨_, rfl⟩) (mem_zpowers_iff.2 ⟨_, rfl⟩)
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean]:
```suggestion
@[to_additive]
theorem Subgroup.zpowers_mul_le_sup {G : Type*} [Group G] (g h : G) :
    zpowers (g * h) ≤ zpowers g ⊔ zpowers h :=
  zpowers_le.mpr (mul_mem_sup (mem_zpowers g) (mem_zpowers h))

@[to_additive]
theorem Subgroup.zpowers_le_of_dvd {G : Type*} [Group G] {g : G} {m n : ℤ} (h : n ∣ m) :
    zpowers (g ^ m) ≤ zpowers (g ^ n) :=
  (zpowers_le_zpowers_iff g m n).mpr (Int.gcd_dvd_gcd_of_dvd_left _ h)

/-- The subgroup generated by `g ^ i` and `g ^ j` is generated by `g ^ gcd i j`. -/
@[to_additive /-- The subgroup generated by `i • g` and `j • g` is generated by `gcd i j • g`. -/]
theorem Subgroup.zpowers_zpow_sup [Group G] (g : G) (i j : ℤ) :
    zpowers (g ^ i) ⊔ zpowers (g ^ j) = zpowers (g ^ (i.gcd j : ℤ)) := by
  apply le_antisymm
  · exact sup_le (zpowers_le_of_dvd (gcd_dvd_left i j)) (zpowers_le_of_dvd (gcd_dvd_right i j))
  · grw [Int.gcd_eq_gcd_ab, zpow_add, zpowers_mul_le_sup]
    exact sup_le_sup (zpowers_le_of_dvd (dvd_mul_right i (i.gcdA j)))
      (zpowers_le_of_dvd (dvd_mul_right j (i.gcdB j)))
```

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 11]
```diff
@@ -835,3 +909,33 @@ instance (G : Type*) [Group G] [IsCyclic G] : IsCyclic (WithZero G)ˣ := by
...
 
 end WithZero
+
+section SubgroupCard
+
+/-- In a cyclic group, if `K` is finite then `H ≤ K` iff `Nat.card H ∣ Nat.card K`. -/
+@[to_additive
+/-- In an additive cyclic group, if `K` is finite then `H ≤ K` iff `Nat.card H ∣ Nat.card K`. -/]
+theorem IsCyclic.subgroup_le_subgroup_iff [Group G] [IsCyclic G] {H K : Subgroup G} [Finite K] :
+    H ≤ K ↔ Nat.card H ∣ Nat.card K := by
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean]: Can you add a version for `Subgroup.index` (since that shouldn't require finiteness at all).

File: Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/Algebra/Group/Subgroup/ZPowers/Lemmas.lean]: I moved it.

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean (hunk 9 above)
Comment (xroblot) [reply Mathlib/GroupTheory/SpecificGroups/Cyclic.lean]: Indeed. I added the lemma and use it to golf the proofs

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean (hunk 11 above)
Comment (xroblot) [reply Mathlib/GroupTheory/SpecificGroups/Cyclic.lean]: I added with some API

Comment (xroblot) [reply Mathlib/GroupTheory/SpecificGroups/Cyclic.lean]: And the result for `Subgroup.index`

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 12]
```diff
@@ -834,3 +917,44 @@ instance (G : Type*) [Group G] [IsCyclic G] : IsCyclic (WithZero G)ˣ := by
...
+  obtain _ | _ := finite_or_infinite G
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean]: cases on whether `H = bot` might be slightly cleaner? (If `H = bot` then `simp` should work, and otherwise you get finiteness of `G` in one line).

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 13]
```diff
@@ -834,3 +917,44 @@ instance (G : Type*) [Group G] [IsCyclic G] : IsCyclic (WithZero G)ˣ := by
...
+  · obtain ⟨g, hg⟩ := isCyclic_iff_exists_zpowers_eq_top.mp ‹_›
+    obtain ⟨i, rfl⟩ := Subgroup.exists_zpowers_eq_of_zpowers_eq_top hg H
+    obtain ⟨j, rfl⟩ := Subgroup.exists_zpowers_eq_of_zpowers_eq_top hg K
+    rw [Subgroup.zpowers_le_zpowers_iff, Nat.card_zpowers, orderOf_zpow,
+      Nat.card_zpowers, orderOf_zpow, Nat.div_dvd_div_iff_left (orderOf_pos g)
+      (Nat.gcd_dvd_left _ _) (Nat.gcd_dvd_left _ _), Int.gcd_eq_natAbs, Int.gcd_eq_natAbs,
+      Int.natAbs_natCast, Nat.gcd_comm, Nat.gcd_comm _ (orderOf g)]
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean]: Once `G` is finite, you might be able to use `subgroup_le_iff_index_dvd` to shorten the proof.

File: Mathlib/Data/Nat/Basic.lean [hunk 14]
```diff
@@ -119,6 +119,10 @@ lemma set_induction {S : Set ℕ} (hb : 0 ∈ S) (h_ind : ∀ k : ℕ, k ∈ S 
 
 /-! ### `mod`, `dvd` -/
 
+/-- Two natural numbers dividing each other are equal. -/
+protected lemma dvd_antisymm_iff : m ∣ n ∧ n ∣ m ↔ m = n :=
+  ⟨fun ⟨h₁, h₂⟩ ↦ Nat.dvd_antisymm h₁ h₂, fun h ↦ h ▸ ⟨Nat.dvd_refl _, Nat.dvd_refl _⟩⟩
```
Comment (tb65536) [inline Mathlib/Data/Nat/Basic.lean]: (or just `grind [Nat.dvd_antisymm, Nat.dvd_refl]`)
```suggestion
  ⟨fun ⟨h₁, h₂⟩ ↦ Nat.dvd_antisymm h₁ h₂, by simp +contextual⟩
```

File: Mathlib/Data/Nat/GCD/Basic.lean [hunk 15]
```diff
@@ -262,6 +262,17 @@ lemma div_mul_div (hkm : m ∣ k) (hkn : n ∣ m) : (k / m) * (m / n) = k / n :=
 lemma div_dvd_div_left (hkm : m ∣ k) (hkn : n ∣ m) : k / m ∣ k / n :=
   ⟨_, (div_mul_div hkm hkn).symm⟩
 
+/-- `k / m ∣ k / n` iff `n ∣ m`, when both `m` and `n` divide `k`. -/
+lemma div_dvd_div_iff_left (hk : 0 < k) (hmk : m ∣ k) (hnk : n ∣ k) :
+    k / m ∣ k / n ↔ n ∣ m := by
+  grind [Nat.div_div_self, div_dvd_div_left, div_dvd_of_dvd]
+
```
Comment (tb65536) [inline Mathlib/Data/Nat/GCD/Basic.lean:275]: splice-bot maintainer merge

Comment (xroblot) [reply Mathlib/Data/Nat/GCD/Basic.lean:275]: @tb65536 Yeah, this PR is getting a bit longer than I expected. I could split it if that helps

Comment (tb65536) [reply Mathlib/Data/Nat/GCD/Basic.lean:275]: Was mostly just annoyed about the build time to get to the cyclic file, but if you have a nice split, I wouldn't complain :)

Comment (xroblot) [reply Mathlib/Data/Nat/GCD/Basic.lean:275]: Well, let me see...

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean (hunk 12 above)
Comment (xroblot) [reply Mathlib/GroupTheory/SpecificGroups/Cyclic.lean]: Indeed. Thanks!

File: Mathlib/Data/Nat/GCD/Basic.lean (hunk 15 above)
Comment (xroblot) [reply Mathlib/Data/Nat/GCD/Basic.lean:275]: @tb65536 I extracted a first PR #42754

File: Mathlib/Algebra/Group/Subgroup/Ker.lean [hunk 16]
```diff
@@ -81,6 +81,11 @@ theorem mem_range {f : G →* N} {y : N} : y ∈ f.range ↔ ∃ x, f x = y :=
 @[to_additive]
 theorem range_eq_map (f : G →* N) : f.range = (⊤ : Subgroup G).map f := by ext; simp
 
+/-- The image of `⊤` under a group homomorphism equals its range. -/
+@[to_additive]
+theorem _root_.Subgroup.map_top (f : G →* N) : (⊤ : Subgroup G).map f = f.range :=
+  (range_eq_map f).symm
```
Comment (tb65536) [inline Mathlib/Algebra/Group/Subgroup/Ker.lean:87]: It might be nice to look through the existing usages of `range_eq_map` and check if any ought to be switched over to `Subgroup.map_top` (perhaps in a separate PR?)

Comment (xroblot) [reply Mathlib/Algebra/Group/Subgroup/Ker.lean:87]: There you go: #43426

Comment (tb65536) [inline Mathlib/Algebra/Group/Subgroup/Ker.lean:87]: This is merged now.

Comment (xroblot) [reply Mathlib/Algebra/Group/Subgroup/Ker.lean:87]: Indeed! I merged master.

**Comment by jcommelin** [comment]
bors d=tb65536

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 17]
```diff
@@ -598,6 +610,21 @@ section Infinite
...
 
+/-- A nontrivial subgroup of an infinite cyclic group is infinite. -/
+@[to_additive /-- A nontrivial subgroup of an infinite additive cyclic group is infinite. -/]
+theorem IsCyclic.infinite_of_ne_bot [Group G] [hG : IsCyclic G] {H : Subgroup G}
+    (h : H ≠ ⊥) : Infinite H := by
+  obtain ⟨g, hg⟩ := isCyclic_iff_exists_zpowers_eq_top.mp hG
+  have hg₀ : orderOf g = 0 := Infinite.orderOf_eq_zero_of_forall_mem_zpowers fun x ↦ hg ▸ mem_top x
+  obtain ⟨i, rfl⟩ := Subgroup.exists_zpowers_eq_of_zpowers_eq_top hg H
+  have hi : i ≠ 0 := fun hi ↦ by simp [hi] at h
+  refine Set.Infinite.to_subtype <| infinite_zpowers.mpr ?_
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean]: I think `finite_zpowers` and `infinite_zpowers` should be `Finite` and `Infinite` (rather than `Set.Finite` and `Set.Infinite`).

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 18]
```diff
@@ -920,3 +947,41 @@ instance (G : Type*) [Group G] [IsCyclic G] : IsCyclic (WithZero G)ˣ := by
...
+/-- In a cyclic group, `H ≤ K` iff `K.index ∣ H.index`. -/
+@[to_additive /-- In an additive cyclic group, `H ≤ K` iff `K.index ∣ H.index`. -/]
+theorem IsCyclic.subgroup_le_iff_index_dvd [Group G] [IsCyclic G] {H K : Subgroup G} :
+    H ≤ K ↔ K.index ∣ H.index := by
+  refine ⟨Subgroup.index_dvd_of_le, fun h ↦ ?_⟩
+  obtain ⟨g, hg⟩ := isCyclic_iff_exists_zpowers_eq_top.mp ‹_›
+  obtain ⟨i, rfl⟩ := Subgroup.exists_zpowers_eq_of_zpowers_eq_top hg H
+  obtain ⟨j, rfl⟩ := Subgroup.exists_zpowers_eq_of_zpowers_eq_top hg K
+  rw [Subgroup.index_zpowers_zpow hg, Subgroup.index_zpowers_zpow hg] at h
+  rwa [Subgroup.zpowers_le_zpowers_iff]
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean]:
```suggestion
  obtain ⟨g, hg⟩ := isCyclic_iff_exists_zpowers_eq_top.mp ‹_›
  obtain ⟨i, rfl⟩ := H.exists_zpowers_eq_of_zpowers_eq_top hg
  obtain ⟨j, rfl⟩ := K.exists_zpowers_eq_of_zpowers_eq_top hg
  simp_rw [Subgroup.index_zpowers_zpow hg, Subgroup.zpowers_le_zpowers_iff]
```

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 19]
```diff
@@ -920,3 +947,41 @@ instance (G : Type*) [Group G] [IsCyclic G] : IsCyclic (WithZero G)ˣ := by
...
+theorem IsCyclic.subgroup_le_iff_card_dvd [Group G] [IsCyclic G] {H K : Subgroup G} [h : Finite K] :
+    H ≤ K ↔ Nat.card H ∣ Nat.card K := by
+  obtain _ | _ := subsingleton_or_nontrivial K
+  · simp [Subgroup.eq_bot_of_subsingleton]
+  · have : Finite G := by
+      contrapose! h
+      infer_instance
+    rw [subgroup_le_iff_index_dvd, Subgroup.index_eq_card_div, Subgroup.index_eq_card_div,
+      Nat.div_dvd_div_iff_left Nat.card_pos (Subgroup.card_subgroup_dvd_card K)
+      (Subgroup.card_subgroup_dvd_card H)]
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean]: I think `[Finite H]` might be slightly more general in practice?
```suggestion
theorem IsCyclic.subgroup_le_iff_card_dvd [Group G] [IsCyclic G] {H K : Subgroup G} [h : Finite H] :
    H ≤ K ↔ Nat.card H ∣ Nat.card K := by
  cases subsingleton_or_nontrivial H
  · simp [H.eq_bot_of_subsingleton]
  · have : Finite G := by
      contrapose! h
      infer_instance
    rw [subgroup_le_iff_index_dvd, H.index_eq_card_div, K.index_eq_card_div,
      Nat.div_dvd_div_iff_left Nat.card_pos K.card_subgroup_dvd_card H.card_subgroup_dvd_card]
```

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 20]
```diff
@@ -920,3 +947,41 @@ instance (G : Type*) [Group G] [IsCyclic G] : IsCyclic (WithZero G)ˣ := by
   apply Equiv.injective
 
 end WithZero
+
+section SubgroupCard
+
+/-- In a cyclic group, `H ≤ K` iff `K.index ∣ H.index`. -/
+@[to_additive /-- In an additive cyclic group, `H ≤ K` iff `K.index ∣ H.index`. -/]
+theorem IsCyclic.subgroup_le_iff_index_dvd [Group G] [IsCyclic G] {H K : Subgroup G} :
```
Comment (tb65536) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean]: Can you add variables to this section?

Comment (xroblot) [reply Mathlib/GroupTheory/SpecificGroups/Cyclic.lean]: Done. Thanks for the review!

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer merge
